US09446130B2
A solution of 2-((dimethylamino)methylene)cyclohexane-1,3-dione (55 g, 0.329 mol), 2-tosylhydrazine (61.3 g, 0.329 mol) and AcOH (33 mL) in EtOH (540 mL) was heated for 4 h at 70° C. Removed the solvent under reduced pressure and the residue was recrystallized using PE/EA=5/1 to give 1-tosyl-6,7-dihydro-1H-indazol-4(5H)-one (49 g, yield 51.3%) as a white solid.

reactant | 2-((dimethylamino)methylene)cyclohexane-1,3-dione | 0.329 mol, 55 g | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
reactant | 2-tosylhydrazine | 0.329 mol, 61.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | AcOH | 33 mL | CC(=O)O | C2H4O2
solvent | EtOH | 540 mL | CCO | C2H6O
product | 1-tosyl-6,7-dihydro-1H-indazol-4(5H)-one | 49 g, yield 51.3% | S(=O)(=O)(C1=CC=C(C)C=C1)N1N=CC=2C(CCCC12)=O | C14H14N2O3S
